US09120749B2
{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure D, {6-bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone (30 mg, 0.068 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (27 mg, 0.099 mmol) to afford the desired product (24.3 mg, 71%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 8.79 (s, 1H), 8.24 (d, J=1.7 Hz, 1H), 8.06-7.96 (m, 2H), 7.53-7.49 (m, 1H), 7.42 (dd, J=11.7, 2.2 Hz, 1H), 3.53 (d, J=12.8 Hz, 2H), 3.28-3.15 (m, 6H), 3.09 (d, J=7.0 Hz, 2H), 2.62-2.54 (m, 1H), 2.14-2.02 (m, 5H), 1.99 (d, J=12.5 Hz, 2H), 1.77-1.63 (m, 2H), 1.36-1.28 (m, 2H), 1.28-1.17 (m, 2H); ESI MS m/z 508 [C29H31ClFN3O2+H]+; HPLC 98.1% (AUC), tR=10.69 min.

reactant | {6-bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 0.068 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN1CCCC1 | C23H28BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.099 mmol, 27 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | {6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 24.3 mg, 71% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN1CCCC1 | C29H31ClFN3O2
